US08633319B2
Intermediate 11: 1-(1,1-Dimethylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
A mixture of 4-bromo-1-(1,1-dimethylethyl)-1H-pyrazole (2.4 g, 11.82 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (3.00 g, 11.82 mmol), potassium acetate (2.90 g, 29.5 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.108 g, 0.118 mmol), 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropylbiphenyl (0.225 g, 0.473 mmol) in 1,4-dioxane (30 ml) was degassed with nitrogen. The reaction mixture was spilt into 2 microwave vials and heated at 110° C. in a microwave for 1.5 h. There was no starting material remaining so the reactions were filtered through a bond elute reservoir and the residue was washed with ethyl acetate. The filtrate was concentrated in vacuo to yield the crude product. This was dissolved in DCM and purified through silica (50 g) eluting with 0-50% ethyl acetate in DCM gradient. Appropriate fractions were combined and concentrated in vacuo to yield the title compound as a beige solid (1.68 g).

reactant | 4-bromo-1-(1,1-dimethylethyl)-1H-pyrazole | 11.82 mmol, 2.4 g | BrC=1C=NN(C1)C(C)(C)C | C7H11BrN2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 11.82 mmol, 3.00 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 29.5 mmol, 2.90 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.118 mmol, 0.108 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-(dicyclohexylphosphino)-2′,4′,6′-triisopropylbiphenyl | 0.473 mmol, 0.225 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | 1-(1,1-Dimethylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.68 g | CC(C)(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
